US04307234
N-(3-butynyl)-N-(2-propenyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine
N-(3-cyclohexylpropyl)-N-(3-butenyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine, N-(2-ethylpropyl)-N-(4-pentynyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine, and N-(3-methyl-2-butenyl)-N-(2-methylpropyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine.

reactant | N-(3-cyclohexylpropyl)-N-(3-butenyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine | C1(CCCCC1)CCCN(CCC1=C2N(C3=CC=CC=C13)C(=NC=C2C)C)CCC=C | C28H39N3
reactant | N-(2-ethylpropyl)-N-(4-pentynyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine | C(C)C(CN(CCC1=C2N(C3=CC=CC=C13)C(=NC=C2C)C)CCCC#C)C | C25H33N3
reactant | N-(3-methyl-2-butenyl)-N-(2-methylpropyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine | CC(=CCN(CCC1=C2N(C3=CC=CC=C13)C(=NC=C2C)C)CC(C)C)C | C24H33N3
product | N-(3-butynyl)-N-(2-propenyl)-1,4-dimethylpyrimido[1,6-a]indole-5-ethanamine | C(CC#C)N(CCC1=C2N(C3=CC=CC=C13)C(=NC=C2C)C)CC=C | C22H25N3
